* source CIRCUITO LEDS
.EXTERNAL OUTPUT Vdd
.EXTERNAL OUTPUT Vee
.EXTERNAL OUTPUT Vcc
R_R1         N000361 N03406  1800 TC=0,0 
R_R2         VEE N03406  3570 TC=0,0 
R_Rf         N03406 N03433  1900 TC=0,0 
R_RB         N03433 N03781  21300 TC=0,0 
R_RE         N03675 N03816  112 TC=0,0 
R_RC         N03671 VDD  360 TC=0,0 
V_V1         VCC 0 5Vdc
V_V3         VEE 0 -15Vdc
V_V2         VDD 0 15Vdc
X_U1         0 N03406 VDD VEE N03433 TL082
Q_Q1         N03671 N03781 N03675 BC547C 
X_D1         0 N03675 Zener_parameterized PARAMS: VZT=5 RSF=100m
X_D2         0 N03816 Zener_parameterized PARAMS: VZT=1.92 RSF=100m
V_V5         N000361 0  
+SIN 2.5 2.5 1k 0 0 0
.PARAM  t=5
