* source CIRCUITO COMPARADOR
.EXTERNAL OUTPUT Vee
.EXTERNAL OUTPUT Vcc
.EXTERNAL OUTPUT Vdd
V_V1         VCC 0 5Vdc
V_V3         VEE 0 -15Vdc
V_V2         VDD 0 15Vdc
R_R1         N03954 N03574  820 TC=0,0 
R_Rf         N03574 N03596  270k TC=0,0 
R_R2         N03574 N03588  10k TC=0,0 
R_R3         N035231 N03592  10k TC=0,0 
X_U1         N03588 N03592 VDD VEE N03596 TL082
V_V4         N035231 0 2.5Vdc
V_V5         N03954 0  
+PULSE 0 5 0 0.5m 0.5m 0 1m
.PARAM  t=5
